US09126998B2
N-(2-Amino-2-methylpropyl)-2,6-dimethyl-8-[(2,3,6-trifluorobenzyl)oxy]imidazo[1,2-a]pyridine-3-carboxamide
70 mg (0.20 mmol) of 2,6-dimethyl-8-[(2,3,6-trifluorobenzyl)oxy]imidazo[1,2-a]pyridine-3-carboxylic acid Example 265A, 84 mg (0.22 mmol) of O-(7-azabenzotriazol-1-yl)-N,N,N′N′-tetramethyluronium hexafluorophosphate (HATU) and 77 mg (0.60 mmol) of N,N-diisopropylethylamine were dissolved in 1.3 ml of DMF, and after 20 min at 0° C., 19.4 mg (0.22 mmol) of 2-methylpropane-1,2-diamine were added. The mixture was stirred at 0° C. for 45 min and then purified by preparative HPLC (method: RP18 column, mobile phase: acetonitrile/water gradient with addition of 0.1% TFA). The product fraction obtained was taken up in dichloromethane and washed twice with saturated aqueous sodium bicarbonate solution. The aqueous phase was extracted twice with dichloromethane. The combined organic phases were dried over sodium sulphate, filtered, concentrated and lyophilized. This gave 54 mg (64% of theory) of the title compound.

reactant | 2,6-dimethyl-8-[(2,3,6-trifluorobenzyl)oxy]imidazo[1,2-a]pyridine-3-carboxylic acid | 0.20 mmol, 70 mg | CC=1N=C2N(C=C(C=C2OCC2=C(C(=CC=C2F)F)F)C)C1C(=O)O | C17H13F3N2O3
reactant | HATU | 0.22 mmol, 84 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.60 mmol, 77 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-methylpropane-1,2-diamine | 0.22 mmol, 19.4 mg | CC(CN)(C)N | C4H12N2
solvent | DMF | 1.3 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2-Amino-2-methylpropyl)-2,6-dimethyl-8-[(2,3,6-trifluorobenzyl)oxy]imidazo[1,2-a]pyridine-3-carboxamide | NC(CNC(=O)C1=C(N=C2N1C=C(C=C2OCC2=C(C(=CC=C2F)F)F)C)C)(C)C | C21H23F3N4O2
